US06162445
Preparation of 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-3,5,5,8,8-pentamethyl-2-naphthyl)-1-propynyl]phenyl acetate:
Following the basic procedure of Example 11(d), by reacting 1.28 g (5 mmol) of α-ethynyl-5,6,7,8-tetrahydro-3,5,5,8,8-pentamethyl-2-naphthalenemethanol with 1.44 g (5,5 mmol) of 4-iodophenyl acetate, 480 mg (25%) of the expected compound, with a melting point of 129°-130° C., were obtained.

reactant | α-ethynyl-5,6,7,8-tetrahydro-3,5,5,8,8-pentamethyl-2-naphthalenemethanol | 5 mmol, 1.28 g | C(#C)C(O)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C18H24O
reactant | 4-iodophenyl acetate | 5,5 mmol, 1.44 g | C(C)(=O)OC1=CC=C(C=C1)I | C8H7IO2
product | 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-3,5,5,8,8-pentamethyl-2-naphthyl)-1-propynyl]phenyl acetate | 480 mg, 25% | C(C)(=O)OC1=CC=C(C=C1)C#CC(C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)O | C26H30O3
